US07109229B2
To a mixture of (1,5-dimethyl-1H-indol-7-yl)-oxo-acetic acid methyl ester (0.51 g, 2.21 mmol) and 2-(6-fluoro-1H-indol-3-yl)-acetamide (0.38 g, 2 mmol) in DMF (20 mL) was added a solution of potassium tert-butoxide in THF (1.0 M, 8.0 mL, 8.0 mmol) at room temperature. The reaction mixture was stirred at room temperature for 11 h, treated with concentrated hydrochloric acid (2 mL) and then heated at 50° C. for 2 h. The mixture was cooled to room temperature, extracted with ethyl acetate and the extract was washed with water, saturated aqueous sodium bicarbonate and brine dried (sodium sulfate), filtered and evaporated. Flash column chromatography on silica gel eluting with chloroform and acetone gave 2-(1,5-dimethyl-1H-indol-7-yl)-N-[2-(6-fluoro-1H-indol-3-yl)-acetyl]-2-oxo-acetamide (170 mg, 23%) and 3-(1,5-dimethyl-1H-indol-7-yl)-4-(6-fluoro-1H-indol-3-yl)-pyyrole-2,5-dione (340 mg, 45.5%). 1H NMR (d6-DMSO, 400 MHz) δ 2.26 (s, 3H), 3.58 (s, 3H), 6.36 (d, J=3.13 Hz, 1H), 6.40˜6.45 (m, 2H), 6.73 (s, 1H), 7.11 (dd, J1=2.34 Hz, J2=9.38 Hz, 1H), 7.16 (d, J=3.13 Hz, 1H), 7.7.39 (s, 1H), 7.80 (d, J=3.13 Hz, 1H), 11.14 (s, 1H), 11.82 (s, 1H); MS (ES, m/z): C22H16FN3O2: 374.2 (M++1); 372.2 (M+−1).

reactant | (1,5-dimethyl-1H-indol-7-yl)-oxo-acetic acid methyl ester | 2.21 mmol, 0.51 g | COC(C(=O)C=1C=C(C=C2C=CN(C12)C)C)=O | C13H13NO3
reactant | 2-(6-fluoro-1H-indol-3-yl)-acetamide | 2 mmol, 0.38 g | FC1=CC=C2C(=CNC2=C1)CC(=O)N | C10H9FN2O
reactant | potassium tert-butoxide | CC(C)([O-])C.[K+]
reactant | THF | 8.0 mmol, 1.0 M, 8.0 mL | C1CCOC1 | C4H8O
reactant | hydrochloric acid | 2 mL | Cl | ClH
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 2-(1,5-dimethyl-1H-indol-7-yl)-N-[2-(6-fluoro-1H-indol-3-yl)-acetyl]-2-oxo-acetamide | 170 mg, 23% | CN1C=CC2=CC(=CC(=C12)C(C(=O)NC(CC1=CNC2=CC(=CC=C12)F)=O)=O)C | C22H18FN3O3
